US09399638B2
Intermediate-35: N-(5-Bromo-4-methylpyridin-2-yl)-2,6-difluorobenzamide
To a (0° C.) cooled and stirred solution of 2,6-difluorobenzoyl chloride (500 mg, 2.83 mmol) in DCM (10 mL) was added 4-bromo-3-methylaniline (632 mg, 3.40 mmol) followed by the addition of pyridine (275 μL, 3.40 mmol). The resulting mixture was warmed to room temperature and stirred overnight. Water (10 mL) was then added to the above mixture and extracted with DCM (3×20 mL). The combined organic layers were washed with 10% aq.HCl (10 mL), dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum to afford 250 mg (28%) of the title compound as a white solid. 1HNMR (400 MHz, DMSO-d6) δ 11.44 (s, 1H, D2O exchangeable), 8.53 (s, 1H), 7.63 (s, 1H), 7.61-7.54 (m, 1H), 7.21 (t, J=7.0 Hz, 2H), 2.41 (m, 3H); (ESI-MS (m/z) 327, 329 [(MH)+ Br79,81]

reactant | 2,6-difluorobenzoyl chloride | 2.83 mmol, 500 mg | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 4-bromo-3-methylaniline | 3.40 mmol, 632 mg | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | pyridine | 3.40 mmol, 275 μL | N1=CC=CC=C1 | C5H5N
reactant | Water | 10 mL | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Bromo-4-methylpyridin-2-yl)-2,6-difluorobenzamide | 250 mg, 28% | BrC=1C(=CC(=NC1)NC(C1=C(C=CC=C1F)F)=O)C | C13H9BrF2N2O
